US04616084
EXAMPLE 5 tert.-Butyl (6R, 7R)-7-benzoylamino-3-hydroxy-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate
An anhydrous and degassed solution of 78 mg (0.2 mmol) of tert.-butyl 4-[3(R)-benzoylamino-2-azetidinon-4-(R)-yloxy]-2-diazo-3-oxo-butyrate in 25 ml of benzene:tetrahydrofuran 3:1 was irradiated in a nitrogen atmosphere at 20° C. for 1 hour with a 450 W mercury vapour lamp with a Pyrex filter. The solvent was evaporated off in vacuo and the residue was purified by chromatography on 8 g of silica gel (toluene:ethyl acetate 35:65). 12 mg (17%) of the title compound were obtained as a colorless rigid foam.

reactant | tert.-butyl 4-[3(R)-benzoylamino-2-azetidinon-4-(R)-yloxy]-2-diazo-3-oxo-butyrate | 0.2 mmol, 78 mg | C(C1=CC=CC=C1)(=O)N[C@H]1C(N[C@@H]1OCC(C(C(=O)OC(C)(C)C)=[N+]=[N-])=O)=O | C18H20N4O6
solvent | benzene tetrahydrofuran | 25 ml | C1=CC=CC=C1.O1CCCC1
catalyst | mercury | [Hg] | Hg
product | tert.-Butyl (6R, 7R)-7-benzoylamino-3-hydroxy-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 12 mg, 17% | C(C1=CC=CC=C1)(=O)N[C@@H]1[C@H]2OCC(=C(N2C1=O)C(=O)OC(C)(C)C)O | C18H20N2O6
